US06407096B1
Methyl (4-(2-(2,2-diphenylpropylthio)ethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate
The same process as Example 1 was repeated except that methyl (4-(2-hydroxyethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate (200 mg) and 2,2-diphenylpropanethiol (410 mg) were used to obtain the colorless oily object compound (134 mg, yield 37%).

reactant | methyl (4-(2-hydroxyethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate | 200 mg | OCCN1CCOC2=C1C=CC=C2OCC(=O)OC | C13H17NO5
reactant | 2,2-diphenylpropanethiol | 410 mg | C1(=CC=CC=C1)C(CS)(C)C1=CC=CC=C1 | C15H16S
product | Methyl (4-(2-(2,2-diphenylpropylthio)ethyl)-3,4-dihydro-2H-1,4-benzoxazin-8-yloxy)acetate | 134 mg, yield 37% | C1(=CC=CC=C1)C(CSCCN1CCOC2=C1C=CC=C2OCC(=O)OC)(C)C2=CC=CC=C2 | C28H31NO4S
